Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Falls/Dyspnea on Exertion
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
 Patient is a very pleasant ___ yo male history of Stage II lung 
cancer status post LLL resection as well as ongoing dementia 
presenting from home after a fall.  Patient is unclear of the 
events and not aware that he is in the hospital; documented 
dementia at baseline.  Spoke with pt's wife on the phone.  Found 
husband on the floor lying down.  When patient got up to sit in 
his chair, that's when he fell.  Patient does not recall 
mechanical fall.  Patient's wife attempted to get him up, and 
was able to prop patient in a chair with help of the 
mainteneance man.  Patient's daughter ___ was notified of the 
fall, and called the paramedics to take patient to the hospital. 
Dr. ___ working on getting patient home oxygen, but 
not on oxygen at home.

Speaking with pt's wife, ___ mental status is marginal.  
Has not been bathing or shaving, with difficulty sleeping.  Has 
been confused, but still remembers his wife and children, but 
does not recognize his grandchildren or great grandchildren.  
Patient has been asking for his sisters, who have all passed 
away.
Patient has not been aggressive or threatening in any way.

In the ED at ___, blood glucose was reportedly at 314 by EMS.  

VS were: 98.6 72 160/90 16 98% RA. CT head negative.  Labs 
showed CKD and chronic normocytic anemia, but otherwise no 
abnormalities were noted.  The patient had a CXR that showed 
atypical looking pneumonia, but given history concern for 
worsening lung cancer.  Was provided with a dose of levofloxacin 
and transferred to the floor for further workup.

Currently, the patient is in no acute distress.  Confused but 
pleasant.  Dyspnic, on 87% RA, with increase to 99% on 2L O2.

REVIEW OF SYSTEMS:  Per patient, has SOB, but denies fever, 
chills, night sweats, headache, vision changes, rhinorrhea, 
congestion, sore throat, cough, chest pain, abdominal pain, 
nausea, vomiting, diarrhea, constipation, dysuria.  
 
Past Medical History:
- Lung Cancer Stage IIa adenocarcinoma s/p resection in ___  
- Prostate Cancer  
- Iron-deficiency anemia  
- angioectasias in the distal small bowel  
- Hyperlipidemia  
- Hypertension  
- Diabetes  
- Dementia  
- COPD  
- OSA  
- GERD  
- Peptic Ulcers  
- Bilateral DJD  
- Shoulder pain
 
Social History:
___
Family History:
Daughter with skin cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - Temp 98.3 F, 188/84 BP , 85 HR , 32R , 87O2-sat % RA/  RR 
20 99% on 2L  
GENERAL - NAD, comfortable, appropriate mild respiratory 
distress  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, shoddy LAD in anterior chain biliterally.  
Posterior lymph node chain with no obvious lymphadenopathy.  No 
thyromegaly, no JVD, no carotid bruits  
LUNGS - No accessory MM use currently.  CTA bilat, however 
decrease breath sounds L worse than right.  No wheezes 
appreciated.  Surgical lobectomy scar present on left back/flank 
region.  No rashes on back. 
HEART - PMI non-displaced, RRR, ___ panystolic apical murmur, nl 
S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions appreciated on arms/legs  
NEURO - awake conversant and pleasant.  Disoriented to place and 
time, cannot recall year and thinks he is "working on the job".  
Knows his own name. ___ focally intact with PERRLA 3 to 2 
mm with light.  Muscle strength ___ throughout, sensation 
grossly intact throughout, DTRs 2+ and symmetric on patellar and 
bicipital regions, cerebellar exam intact without past pointing. 
 Waddling gait, does not move upper extremities with gait.  
Negative Romberg with no pronantor drift.
 
DISCHARGE PHYSICAL EXAM:  
VSS.  No change in rest of exam.

 
Pertinent Results:
ADMISSION LABS

___ 04:47AM   ___ TEMP-37 COMMENTS-GREEN TOP 
___ 04:47AM   LACTATE-1.3
___ 03:40AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 03:40AM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 03:40AM URINE  HYALINE-5*
___ 03:40AM URINE  MUCOUS-RARE
___ 10:45PM   GLUCOSE-243* UREA N-19 CREAT-1.4* SODIUM-137 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-24 ANION GAP-17
___ 10:45PM   estGFR-Using this
___ 10:45PM   WBC-10.3# RBC-3.53* HGB-7.9* HCT-25.8* 
MCV-73* MCH-22.4* MCHC-30.6* RDW-20.1*
___ 10:45PM   NEUTS-83.9* LYMPHS-10.0* MONOS-5.4 EOS-0.6 
BASOS-0.1
___ 10:45PM   PLT COUNT-269

DISCHARGE LABS

___ 05:10AM BLOOD WBC-7.8 RBC-3.62* Hgb-7.9* Hct-26.7* 
MCV-74* MCH-21.8* MCHC-29.6* RDW-19.7* Plt ___
___ 05:10AM BLOOD ___ PTT-33.1 ___
___ 05:10AM BLOOD Glucose-181* UreaN-12 Creat-1.0 Na-137 
K-4.0 Cl-99 HCO3-27 AnGap-15
___ 05:10AM BLOOD Calcium-9.1 Phos-3.0 Mg-1.5*

URINE TESTS
___ 03:40AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 03:40AM URINE Color-Yellow Appear-Clear Sp ___
___ 03:40AM URINE CastHy-5*

URINE/BLOOD CULTURE: NO GROWTH

IMAGING & REPORTS
___

ECG
Sinus rhythm. Left axis deviation. Lateral ST-T wave 
abnormalities. Since
the previous tracing of ___ probably no significant change.
  IntervalsAxes
___
___

CT HEAD
FINDINGS:  This study is limited due to motion.  Within these 
limitations,
there is no evidence of hemorrhage, edema, mass effect or acute 
large vascular
territory infarction.  Ventricles and sulci are prominent, 
consistent with
age-related atrophy.  There is confluent periventricular white 
matter
hypodensity, consistent with chronic small vessel ischemic 
disease.  The
visualized paranasal sinuses and mastoid air cells are clear.  
There is no
fracture.
 
IMPRESSION:
1.  Limited study, but no acute intracranial process.
2.  Age-related chronic small vessel ischemic disease.
 

CXR
FINDINGS:  The patient has had a prior left lower lobectomy.  
Since the prior
exam, nodular pleural thickening encasing the left lung has 
increased at the
expense of aeration of the left lung with stable elevation of 
the left
hemidiaphragm. Central adenopathy in the left hilus and adjacent 
mediastinum
has also progressed. The right lung is clear.  Cardiomediastinal 
silhouette is
unchanged.
 
IMPRESSION:  Progression of left pleural and nodal metastases.
 

CT CHEST WITH CONTRAST
FINDINGS:  As compared to the previous examination, the patient 
is after left
upper lobectomy.  The previously collapsed left postoperative 
lung is now
better ventilated.
 
However, the left pleura is both focally and diffusely thickened 
and shows
multiple up to 2.5 cm large nodules.  These are most obvious in 
the anterior
and apical lung regions (3, 20) as well as in the inferior and 
posterior
medial lung regions (3, 30).  The left lung parenchyma also 
shows evidence of
intraparenchymal nodules and one questionable endobronchial 
nodule at the
level of the stump (4, 121).
 
The entire left hemithorax shows volume loss.  Small areas of 
atelectasis are
seen at the left lung bases.  In the right lung, there are 
multiple soft
tissue density nodules with maximum sizes of 5-6 mm.  All these 
nodules are
likely to reflect metastatic disease.  The nodules show a 
peripheral and lower
lobe predominance.
 
There is no right pleural effusion.  Moderate pulmonary 
emphysema.
 
Unchanged coronary calcifications, several lymph nodes, for 
example in the
precarinal and the subcarinal area, are borderline in diameter.  
Moderate
aortic calcifications.
 
Newly appeared is a 2.5 cm hypodense lesion at the level of the 
right adrenal
gland, representing an adrenal metastasis.
 
IMPRESSION:
1.  Massive pleural metastatic disease in the left hemithorax, 
multiple left
intraparenchymal metastasis and one endobronchial metastasis.
2.  Multiple right lung metastasis.
3.  Newly appeared right adrenal metastasis.
4.  Borderline mediastinal lymph nodes.
5.  No evidence of osteolytic lesions.
 
 
Brief Hospital Course:
ACTIVE ISSUES

DEMENTIA and FALLS:  Patient's mental status has been 
deteriorating, leading to recurrent falls at home.  Per his wife 
___, Mr. ___ has often forgot where he is, the year/month, 
and his grandchildren.  He sleeps most of the day, and has been 
having falls at home.  On presentation to the hospital, patient 
suffered a fall prior.  He was evaluated by physical therapy who 
recommended home with physical therapy.

STAGE IV LUNG CANCER:  History of lower lobe resection for stage 
II cancer.  On presentation to the hospital, he had a chest xray 
that was concerning for pleural involvement of malignancy.  
Follow up CT chest with contrast confirmed diffuse metastatic 
disease.  A family meeting was held with the patient's HCP 
___, oncology, and medicine.  At the conclusion of the 
meeting, the decision was made to not pursue any palliative 
treatment, and to allow the patient to go home with ___ services 
and eventual bridge to hospice care.

COPD and DYSPNEA:  Initially, ambulating with 83% sats on room 
air.  After several breathing treatments, saturations improved 
to 90% on RA with ambulation.  Patient's PCP currently working 
on having home oxygen available for the patient.  Discharged 
home with home COPD regimen.

INACTIVE ISSUES (CONTINUED HOME REGIMEN)
Diabetes II
Depression
CAD
HTN
Anemia

CODE STATUS: DNR DNI
CONTACT: Wife ___ number: ___  
Cell phone: ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
hold for SBP<100 
2. Atorvastatin 20 mg PO DAILY 
3. Carvedilol 12.5 mg PO BID 
Hold for SBP<100/ HR<60 
4. Fluticasone Propionate NASAL 1 SPRY NU BID 
5. Donepezil 10 mg PO HS 
6. Hydrocortisone Cream 2.5% 1 Appl TP BID 
Apply to scalp lesions BID 
7. Losartan Potassium 50 mg PO DAILY 
hold for SBP<100 
8. Memantine 10 mg PO BID 
9. MetFORMIN (Glucophage) 1000 mg PO BID 
10. Omeprazole 40 mg PO DAILY 
11. Sertraline 100 mg PO DAILY 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. Tolterodine 1 mg PO BID 
14. Aspirin 325 mg PO DAILY 
15. Docusate Sodium 100 mg PO BID 
16. Ferrous Sulfate 325 mg PO DAILY 
17. Glargine 8 Units Breakfast

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
hold for SBP<100 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. Carvedilol 12.5 mg PO BID 
Hold for SBP<100/ HR<60 
5. Docusate Sodium 100 mg PO BID 
6. Donepezil 10 mg PO HS 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Fluticasone Propionate NASAL 1 SPRY NU BID 
9. Losartan Potassium 50 mg PO DAILY 
hold for SBP<100 
10. Memantine 10 mg PO BID 
11. Sertraline 100 mg PO DAILY 
12. MetFORMIN (Glucophage) 1000 mg PO BID 
13. Omeprazole 40 mg PO DAILY 
14. Tiotropium Bromide 1 CAP IH DAILY 
15. Glargine 8 Units Breakfast

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Metastatic Lung Cancer
Secondary: Dementia

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___-

It has been a pleasure taking care of you at ___ 
___.  You came to the hospital because you 
had a fall and were also having difficulty breathing.  You were 
observed for two days, given oxygen, and your breathing 
improved.  You had a CT scan of your chest that new massess in 
your left lung, right lung and kidney that are indicative of 
metastatic disease.  You and your family met with the medical 
team, and the decision was to have visiting nurses at home to 
help with physical therapy.

 
Followup Instructions:
___